US08017792B2
Synthesis of 2-(5-bromo-2-methoxybenzyl)-1-benzothiophene
Then, Et3SiH (10.3 mL, 0.0642 mol) and BF3.Et2O (4.10 mL, 0.0321 mol) were added sequentially to a chloroform (110 mL) solution of (1-benzothien-2-yl)(5-bromo-2-methoxyphenyl)methanol (1.2 g, 0.0321 mol) at −15° C. After the mixture was stirred for 0.5 hours, a saturated sodium bicarbonate aqueous solution was added. The mixture was extracted with chloroform, and the organic phase was washed with brine and then dried with anhydrous magnesium sulfate. The residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to obtain a title compound (9.84 g, 92%) as a yellow crystal.

reactant | Et3SiH | 0.0642 mol, 10.3 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 0.0321 mol, 4.10 mL | B(F)(F)F.CCOCC
reactant | (1-benzothien-2-yl)(5-bromo-2-methoxyphenyl)methanol | 0.0321 mol, 1.2 g | S1C(=CC2=C1C=CC=C2)C(O)C2=C(C=CC(=C2)Br)OC | C16H13BrO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 110 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-bromo-2-methoxybenzyl)-1-benzothiophene | 9.84 g, 92% | BrC=1C=CC(=C(CC=2SC3=C(C2)C=CC=C3)C1)OC | C16H13BrOS
